US04420615
D. 2-(2-Dimethylaminoethylamino)-4,6-dimethylnicotinaldehyde
A solution of crude 2-(2-dimethylaminoethylamino)-3-hydroxymethyl-4,6-dimethylpyridine (15.0 g, 67 mmol) in methylene chloride (300 ml) containing a suspension of activated manganese dioxide (35 g) is refluxed for 5 hours. The solution is filtered hot and the manganese dioxide re-extracted with hot methylene chloride. The combined extracts are filtered through charcoal and evaporated to give 12.0 g of crude title D product.

reactant | 2-(2-dimethylaminoethylamino)-3-hydroxymethyl-4,6-dimethylpyridine | 67 mmol, 15.0 g | CN(CCNC1=NC(=CC(=C1CO)C)C)C | C12H21N3O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 35 g | [O-2].[O-2].[Mn+4]
product | 2-(2-Dimethylaminoethylamino)-4,6-dimethylnicotinaldehyde | CN(CCNC1=C(C=O)C(=CC(=N1)C)C)C | C12H19N3O
